US09334480B2
In a 100 mL round-bottomed flask, 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid (0.84 g, 2.15 mmol), 3-fluoro-benzylamine (296 mg, 270 μL, 2.37 mmol) and DIEA (612 mg, 827 μL, 4.73 mmol) were combined with DMF (10 mL) to give a black solution and to this was added HATU (982 mg, 2.58 mmol). The reaction was stirred at room temperature overnight. The next day, the reaction was dripped into water and the resulting precipitate was filtered and washed with water, ethyl ether, and hexanes. The purple solid was incompletely dissolved in minimal boiling ethanol and the resulting solid that formed upon cooling was filtered and washed with ethanol and hexanes yielding 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide as a light purple solid. LC/MS calcd for C28H24FN5O3 (m/e) 497.0, obsd 497.9 (M+H); 1H NMR (DMSO-d6-TFA) δ: 11.25 (br. s., 1H), 10.77 (br. s., 1H), 9.32 (t, J=5.8 Hz, 1H), 7.71-7.97 (m, 2H), 7.14-7.63 (m, 10H), 7.03-7.13 (m, 1H), 6.21 (d, J=7.5 Hz, 1H), 4.84 (br. s., 1H), 4.68 (br. s., 2H), 3.65 (d, J=12.5 Hz, 1H), 3.46 (d, J=7.0 Hz, 1H).

reactant | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid | 2.15 mmol, 0.84 g | O[C@H](CNC1=C(C(NC=C1)=O)C=1NC2=C(N1)C=CC=C2C(=O)O)C2=CC=CC=C2 | C21H18N4O4
reactant | 3-fluoro-benzylamine | 2.37 mmol, 270 μL, 296 mg | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | DIEA | 4.73 mmol, 827 μL, 612 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.58 mmol, 982 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[4-((S)-2-hydroxy-2-phenyl-ethylamino)-2-oxo-1,2-dihydro-pyridin-3-yl]-3H-benzoimidazole-4-carboxylic acid 3-fluoro-benzylamide | FC=1C=C(CNC(=O)C2=CC=CC=3N=C(NC32)C=3C(NC=CC3NC[C@H](C3=CC=CC=C3)O)=O)C=CC1 | C28H24FN5O3
